US05527763
Preparation of ethyl 4-(4,6-dimethoxypyrimidin-2-yloxy)-2-methylthiomethylthiophene-3-carboxylate (Compound No. 170)
50 ml of N,N-dimethylformamide was added to 3.5 g (15.1 mmol) of ethyl 4-hydroxy-2-methylthiomethylthiophene-3-carboxylate, 3.3 g (15.1 mmol) of 4,6-dimethoxy-2-methylsulfonylpyrimidine and 2.1 g (15.2 mmol) of potassium carbonate, and the mixture was heated and stirred at from 90° to 100° C. for 2 hours. After cooling, the reaction solution was poured into water, extracted with ethyl acetate, washed with water and a saturated sodium chloride aqueous solution, and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure, and the residue was purified by column chromatography to obtain 2.8 g (yield: 50.0%) of the desired product.

reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | ethyl 4-hydroxy-2-methylthiomethylthiophene-3-carboxylate | 15.1 mmol, 3.5 g | OC=1C(=C(SC1)CSC)C(=O)OCC | C9H12O3S2
reactant | 4,6-dimethoxy-2-methylsulfonylpyrimidine | 15.1 mmol, 3.3 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | potassium carbonate | 15.2 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | ethyl 4-(4,6-dimethoxypyrimidin-2-yloxy)-2-methylthiomethylthiophene-3-carboxylate | 2.8 g, yield: 50.0% | COC1=NC(=NC(=C1)OC)OC=1C(=C(SC1)CSC)C(=O)OCC | C15H18N2O5S2
